Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This is a ___ year old male with PMHx MS, HTN, gout, psoriasis, 
recurrent pancreatitis, and a recently diagnosed pancreatic 
neuroendocrine tumor, who is presenting with abdominal pain. He 
reports that the pain started at 3 pm on the day of admission 
very suddenly and feels like the pain that he gets with his 
recurrent pancreatitis. He describes the pain as a sharp ___ 
sensation that is located mostly on the left upper quadrant and 
radiated to his back. The pain has been associated with nausea, 
vomiting, and diarrhea.  
 Of note, he has had recurrent episodes of abdominal pain. In 
___, he had a cholecystectomy, but he still had 
recurrent episodes of abdominal pain. He underwent an endoscopic 
ultrasound, which showed a small 5 mm mass in the pancreas, 
which was biopsied by fine-needle aspiration and found to be a 
pancreatic neuroendocrine tumor. He has been seen by surgery who 
was favoring getting and MRI this upcoming ___ and watching 
the tumor.  
 In the ED, initial vitals were: 98.6 69 180/93 18 95% RA  
 - Labs were significant for:  
 - Na 145 K 4.4 Cl 104 CO2 26 BUN 20 Cr 0.8  
 - ALT 28 AST 25 AP 80 Tbili 0.3 Alb 4.7 Lip 190  
 - WBC 10.0 Hgb 17.2 Hct 52.3 Plt 150  
 - The patient was given: Morphine Sulfate 5 mg, Ondansetron 4 
mg, IVF 1000 mL NS 1000 mL  
 Vitals prior to transfer were: 98.1 66 135/84 16 93% RA  
 Upon arrival to the floor, the patient reports that he is 
having ___ abdominal pain which feels very similar to all of 
his previous episodes of pancreatitis.  
 REVIEW OF SYSTEMS:  
 (+) Per HPI  
 (-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. No dysuria. Denies arthralgias or 
myalgias.  
 
Past Medical History:
HTN  
 Gout  
 recurrent pancreatitis  
 pancreatic neuroendocrine tumor  
 psoriasis  
 MS  
 s/p cholecystectomy  
 OSA  
 
Social History:
___
Family History:
Father with prostate cancer. Mother with HTN, stroke, DM. 
Brother with DM. Denies family history of premature CAD.  
 
Physical Exam:
=================
ADMISSION EXAM:
=================
Vitals: 98.4 151/85 65 18 92%  
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI  
 Neck: Supple, JVP not elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, diffuse tenderness worst in left upper quadrant, 
non-distended, bowel sounds present, no organomegaly, no rebound 
or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  

==================
DISCHARGE EXAM:
==================
VITALS:  97.7, 131/79, 62, 94 on RA
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear  
NECK: Supple
RESP: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
ABD: +BS, soft, nondistended, non-tender. No hepatomegaly. No 
rebound, no guarding.  
GU: no foley  
EXT: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
NEURO: CNs2-12 intact, motor function grossly normal, ambulating 
without difficulty 
 
Pertinent Results:
==================
ADMISSION LABS:
==================

___ 07:50PM   WBC-10.0 RBC-5.95 HGB-17.2 HCT-52.3* MCV-88 
MCH-28.9 MCHC-32.9 RDW-15.1 RDWSD-45.9
___ 07:50PM   NEUTS-78.6* LYMPHS-15.5* MONOS-4.7* EOS-0.4* 
BASOS-0.4 IM ___ AbsNeut-7.86* AbsLymp-1.55 AbsMono-0.47 
AbsEos-0.04 AbsBaso-0.04
___ 07:50PM   PLT COUNT-150
___ 07:50PM   GLUCOSE-101* UREA N-20 CREAT-0.8 SODIUM-145 
POTASSIUM-4.4 CHLORIDE-104 TOTAL CO2-26 ANION GAP-19
___ 07:50PM   ALT(SGPT)-28 AST(SGOT)-25 ALK PHOS-80 TOT 
BILI-0.3
___ 07:50PM   LIPASE-190*
___ 07:50PM   ALBUMIN-4.7 CALCIUM-10.2 PHOSPHATE-3.7 
MAGNESIUM-2.1

==================
DISCHARGE LABS:
==================

___ 06:46AM BLOOD WBC-5.1 RBC-5.61 Hgb-16.1 Hct-48.5 MCV-87 
MCH-28.7 MCHC-33.2 RDW-14.2 RDWSD-44.3 Plt ___
___ 06:46AM BLOOD Glucose-89 UreaN-9 Creat-0.7 Na-140 K-3.8 
Cl-103 HCO___ AnGap-15
___ 06:46AM BLOOD Calcium-9.5 Phos-3.2 Mg-2.1

=============
IMAGING:
=============
MRI Abdomen/Pelvis ___
IMPRESSION: 
1. No identifiable pancreatic malignancy.  No evidence of acute 
pancreatitis or other acute abnormality within the abdomen and 
pelvis. 
2. 3.0 x 2.4 cm slightly exophytic left renal interpolar cyst 
with 1.1 x 1.5 cm enhancing component which follows cortical 
signal on every sequence.  The focal bulge is slightly atypical, 
and correlation with ultrasound is recommended for further 
characterization and as a baseline assessment.  This lesion 
should also be followed closely on subsequent follow-up MRIs 
performed for the underlying then neural endocrine pancreatic 
lesion. 
3. Incidental findings as detailed above. 
  
RECOMMENDATION(S):  Ultrasound for further characterization as a 
baseline study for the left interpolar 3.0 x 2.4 cm renal cyst 
as detailed above.  This lesion should also be followed on the 
patient's subsequent follow-up MRIs 

EKG ___: 
Sinus rhythm. Left axis deviation. Left anterior fascicular 
block. No
previous tracing available for comparison.
 
Brief Hospital Course:
___ year old man with PMHx MS, HTN, gout, psoriasis, recurrent 
pancreatitis, and a recently diagnosed pancreatic neuroendocrine 
tumor (being managed conservatively), who is presenting with 
abdominal pain, elevated lipase, consistent with pancreatitis. 

# PANCREATITIS: Patient has had recurrent pancreatitis for over 
a year now. His last episode was 3 months ago and he reports 
that these episodes are becoming less frequent. He had 
cholecystectomy in ___, which helped somewhat. When he 
presented, he was in ___ pain, improved with morphine. Kept NPO 
initially and then advanced to clears and the solids. 

# NEUROENDOCRINE TUMOR: He had an endoscopic US and biopsy that 
showed neuroendocrine tumor that is being followed by Dr. 
___. At this point, they have told him it is benign and 
doesn't warrant surgical intervention, but should just be 
monitored by serial imaging. Unclear if tumor has anything to do 
with pancreatitis. Initially had MRI scheduled for ___, but 
given hospitalization, had MRI A/P as inpatient to monitor 
progression of neuroendocrine tumor. MRI showed no evidence of 
neuroendocrine tumor, but noted left interpolar renal cyst, 
requiring ultrasound followup. 

# HTN: Patient will well controlled BP  
 - Continued Amlodipine 10 mg PO/NG DAILY  

# Gout: well controlled  
 - Continued Allopurinol ___ mg PO/NG DAILY  

# MS: Patient has 30+ years diagnosis of MS.  

# OSA: Continued home CPAP  
======================
TRANSITIONAL ISSUES:
======================
- no changes made to home medications
- would consider obtaining somatastatin scan as outpatient
- given information for neuroendocrine specialist at ___ 
and in ___.
- patient having trouble affording medication for multiple 
sclerosis, should assess resources as outpatient
- Incidental finding: Ultrasound for further characterization as 
a baseline study for the left interpolar 3.0 x 2.4 cm renal cyst 
as detailed above. This lesion should also be followed on the 
patient's subsequent follow-up MRIs. 
- FULL CODE
- patient should adhere to strict low fat diet 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 10 mg PO DAILY 
2. Allopurinol ___ mg PO DAILY 
3. Ondansetron 4 mg PO Q8H:PRN nausea 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
2. Amlodipine 10 mg PO DAILY 
3. Ondansetron 4 mg PO Q8H:PRN nausea 
4. Miconazole Powder 2% 1 Appl TP TID:PRN itch 
RX *miconazole nitrate [Miconazorb AF] 2 % 1 application three 
times a day as needed Refills:*0
5. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*0
6. OxycoDONE (Immediate Release)  5 mg PO Q8H:PRN pain 
RX *oxycodone 5 mg 1 capsule(s) by mouth every 8 hours as needed 
Disp #*15 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
acute pancreatitis

SECONDARY DIAGNOSIS:
neuroendocrine tumor

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at ___. You came to the 
hospital for nausea and vomiting that was similar to prior 
episodes of pancreatitis. You were given medication for your 
pain and kept nothing by mouth. As your symptoms improved, you 
were able to eat and eventually able to tolerate full meals. 

You were able to have your MRI to follow up your neuroendocrine 
tumor. It did not identify the tumor that had been previously 
described. The MRI did show an abnormal cyst on your kidney, 
that needs to be followed up with an ultrasound. 

You were given the contact information for a doctor who 
specializes in neuroendocrine tumors. Please follow up with him 
as directed. Please adhere to a strict low fat diet from here 
on.

We wish you the best of health, 

Your medical team at ___
 
Followup Instructions:
___